US08623889B2
A solution of the crude ethyl 2-ethoxycyclopropanecarboxylate in methanol (10 mL) was treated with aqueous lithium hydroxide (8.6 mL, 1.0 M, 8.6 mmol, 1.0 equiv.), the mixture stirred at ambient temperature for 16 h, and concentrated in vacuo. The resulting orange syrup was twice redissolved in methanol and concentrated in vacuo to afford crude 2-ethoxycyclopropane-carboxylic acid lithium salt as an orange foam (1.21 g, 104%).

reactant | ethyl 2-ethoxycyclopropanecarboxylate | C(C)OC1C(C1)C(=O)OCC | C8H14O3
reactant | lithium hydroxide | 8.6 mmol, 1.0 M, 8.6 mL, 1.0 equiv. | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-ethoxycyclopropane-carboxylic acid lithium salt | 1.21 g, 104% | [Li+].C(C)OC1C(C1)C(=O)[O-] | InChI=1S/C6H10O3.Li/c1-2-9-5-3-4(5)6(7)8;/h4-5H,2-3H2,1H3,(H,7,8);/q;+1/p-1
